US05888698
Next, 20.3 g of piperidine-4-carboxylic acid t-butyl ester is dissolved in 100 ml of CH2Cl2 and cooled in an ice bath. Under a nitrogen atmosphere, 12 ml of triethylamine and then, 8.2 ml of acryloyl chloride solution in CH2Cl2 are added dropwise to the ester solution. This mixture is completely mixed by stirring for 5 hrs. Thereafter, this mixture is washed three times with 20 ml of 1 N HCl, washed another three times with 20 ml of NaHCO3 and then washed once with 25 ml of brine water, and dried over MgSO4 to obtain N-acryloyl-piperidine-4-carboxylic acid t-butyl ester.

reactant | piperidine-4-carboxylic acid t-butyl ester | 20.3 g | C(C)(C)(C)OC(=O)C1CCNCC1 | C10H19NO2
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 8.2 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N-acryloyl-piperidine-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1CCN(CC1)C(C=C)=O | C13H21NO3
